US07230098B2
4-[6-Amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-N-(2-hydroxy-3-pyrrolidin-1-yl-propyl)-benzamide was prepared from 4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-benzoic acid and 1-amino-3-pyrrolidin-1-yl-propan-2-ol following procedure 4.

reactant | 4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-benzoic acid | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)OCC1=C(C=CC=C1Cl)Cl | C19H14Cl2N2O3
reactant | 1-amino-3-pyrrolidin-1-yl-propan-2-ol | NCC(CN1CCCC1)O | C7H16N2O
product | 4-[6-Amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-N-(2-hydroxy-3-pyrrolidin-1-yl-propyl)-benzamide | NC1=C(C=C(C=N1)C1=CC=C(C(=O)NCC(CN2CCCC2)O)C=C1)OCC1=C(C=CC=C1Cl)Cl | C26H28Cl2N4O3
